US05911912
A solution of 100 mmol of trans/trans-2-benzyloxymethyl-5-(4-pentylcyclohexyl)-1,3-dioxane is hydrogenated in 300 ml of THF with the addition of 2.0 g of 5% Pd/activated charcoal until the take-up of hydrogen is complete. trans/trans-[5-(4-pentylcyclohexyl)-1,3-dioxan-2-yl]methanol is obtained by conventional work-up.

reactant | trans-2-benzyloxymethyl-5-(4-pentylcyclohexyl)-1,3-dioxane | C(C1=CC=CC=C1)OC[C@@H]1OC[C@H](CO1)C1CCC(CC1)CCCCC | C23H36O3
reactant | hydrogen | [H][H] | H2
solvent | THF | 300 ml | C1CCOC1 | C4H8O
catalyst | Pd | 2.0 g | [Pd] | Pd
product | trans-[5-(4-pentylcyclohexyl)-1,3-dioxan-2-yl]methanol | C(CCCC)C1CCC(CC1)[C@H]1CO[C@@H](OC1)CO | C16H30O3
